US07396958B2
N-[4-chloro-2-(2-chlorobenzyl)phenyl]-3-methoxybenzenesulfonamide
Starting with 0.71 g of [4-chloro-2-(2-chlorobenzyl)phenyl]amine dissolved in 5 ml of THF are added 0.4 ml of pyridine and 0.8 g of 3-methoxybenzenesulfonyl chloride, and the mixture is left at room temperature for 18 hours. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a 90/10 (v/v) cyclohexane/ethyl acetate solvent mixture to give 0.666 g of expected product.

reactant | [4-chloro-2-(2-chlorobenzyl)phenyl]amine | 0.71 g | ClC1=CC(=C(C=C1)N)CC1=C(C=CC=C1)Cl | C13H11Cl2N
reactant | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-methoxybenzenesulfonyl chloride | 0.8 g | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-chloro-2-(2-chlorobenzyl)phenyl]-3-methoxybenzenesulfonamide | 0.666 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=CC=C1)OC)CC1=C(C=CC=C1)Cl | C20H17Cl2NO3S
